US08487109B2
4-(5-Phenyl-pent-1-ynyl)-benzaldehyde
This product was prepared from toluene-4-sulfonic acid 4-formyl-phenyl ester and pent-4-ynyl-benzene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/DCM 1:1; yield (100 mg, 58%); 1H NMR δ (CDCl3): 9.98 (s, 1H), 8.02 (d, J=8.61 Hz, 2H), 7.81 (d, J=8.63 Hz, 2H), 7.57-7.47 (m, 4H), 2.79 (t, J=7.18 Hz, 2H), 2.48 (t, J=7.17 Hz, 2H), 1.93 (p, J=7.23 Hz, 2H); LCMS m/z: 248.

reactant | toluene-4-sulfonic acid 4-formyl-phenyl ester | C(=O)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C14H12O4S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 4-(5-Phenyl-pent-1-ynyl)-benzaldehyde | C1(=CC=CC=C1)CCCC#CC1=CC=C(C=O)C=C1 | C18H16O
